2162-03-27 12:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yr old NHL s/p SCT c/b GVHD with BO, vent dependent, trached, ESBL
   klebs bacteremia from pulmonary source. Admitted for persistent fevers
   and persistent ESBL klebs bacteremia.
   24 Hour Events:
   - post pyloric placement dolpoff placed by IR
   - PICC held off due to fever.
   - tobramycin level sent.
   - Got 500 cc IV bolus for tachy and hypotension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-3-25**] 07:59 AM
   Bactrim (SMX/TMP) - [**2162-3-25**] 10:00 AM
   Tobramycin - [**2162-3-26**] 02:01 PM
   Acyclovir - [**2162-3-27**] 08:38 AM
   Voriconazole - [**2162-3-27**] 08:38 AM
   Meropenem - [**2162-3-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-27**] 08:38 AM
   Lansoprazole (Prevacid) - [**2162-3-27**] 08:38 AM
   Other medications:
   Meds reviewed. Abx Acyclovir, Tobramycin, meropenem, voriconazole,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-27**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 100 (82 - 107) bpm
   BP: 108/68(77) {81/46(62) - 111/78(86)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.5 kg (admission): 46.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,770 mL
                                                                    970 mL
   PO:
             TF:
                                                                  1,020 mL
                                                                    530 mL
   IVF:
                                                                  1,240 mL
                                                                    321 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                  1,390 mL
   Urine:
                                                                  2,490 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    280 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 8.6 L/min
   Physical Examination
   Cachectic, awake, alert, interactive
   Lungs clear and/lat
   CVS: S1S2 reg
   Abd: soft, nontender
   Skin:  warm
   Ext
 no c/c/e
   Labs / Radiology
   9.5 g/dL
   275 K/uL
   93 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.7 mEq/L
   8 mg/dL
   101 mEq/L
   136 mEq/L
   29.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2162-3-23**]  03:42 AM
                             [**2162-3-23**]  03:20 PM
                             [**2162-3-24**]  04:01 AM
                             [**2162-3-25**]  06:40 AM
                             [**2162-3-26**]  06:04 AM
                             [**2162-3-27**]  05:29 AM
   WBC
   7.1
   6.5
   7.0
   7.7
   7.6
   Hct
   23.5
   28.7
   30.0
   28.1
   27.6
   29.8
   Plt
   [**Telephone/Fax (3) 12029**]45
   275
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   Glucose
   79
   99
   73
   93
   93
   Other labs: PT / PTT / INR:12.6/39.9/1.1, ALT / AST:28/42, Alk Phos / T
   Bili:313/1.3, Albumin:2.9 g/dL, LDH:260 IU/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:1.6 mg/dL
   Imaging: No new CXR
   Assessment and Plan
   Acute/Chronic respiratory failure
 need to wean vent gradually and
   work with Mr [**Known lastname 11922**]. I explained the need to work on building up resp
   muscle strength. He remains ventilator dependent.
   Liquid stool, possible Cdiff
 to be sent, start PO flagyl empirically
   Lymphoma
 followed by hem/onc
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2162-3-23**] 01:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2162-03-28 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yr old NHL s/p SCT c/b GVHD with BO, vent dependent, trached,
   resistant klebsiella bacteremia from probable VAP vs aspiration.
   Admitted for persistent fevers and persistent klebs bacteremia.
   Overnight
 refused flagyl, cdiff sent
 negative.
   Tobra redosed. Surveillance blood cultures negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2162-3-27**] 08:38 AM
   Metronidazole - [**2162-3-27**] 02:25 PM
   Tobramycin - [**2162-3-27**] 02:30 PM
   Acyclovir - [**2162-3-28**] 08:30 AM
   Meropenem - [**2162-3-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2162-3-28**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2162-3-28**] 08:30 AM
   Other medications: reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-28**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 106 (93 - 114) bpm
   BP: 110/74(83) {82/50(59) - 154/85(92)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.5 kg (admission): 46.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,923 mL
                                                                    722 mL
   PO:
             TF:
                                                                  1,063 mL
                                                                    503 mL
   IVF:
                                                                    740 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                  1,240 mL
   Urine:
                                                                  2,765 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -842 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (282 - 313) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 150
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   314 K/uL
   97 mg/dL
   0.3 mg/dL
   33 mEq/L
   4.7 mEq/L
   8 mg/dL
   96 mEq/L
   136 mEq/L
   32.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2162-3-23**]  03:42 AM
                             [**2162-3-23**]  03:20 PM
                             [**2162-3-24**]  04:01 AM
                             [**2162-3-25**]  06:40 AM
                             [**2162-3-26**]  06:04 AM
                             [**2162-3-27**]  05:29 AM
                             [**2162-3-28**]  06:08 AM
   WBC
   7.1
   6.5
   7.0
   7.7
   7.6
   10.6
   Hct
   23.5
   28.7
   30.0
   28.1
   27.6
   29.8
   32.7
   Plt
   [**Telephone/Fax (3) 12029**]45
   275
   314
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.3
   Glucose
   79
   99
   73
   93
   93
   97
   Other labs: PT / PTT / INR:12.6/42.9/1.1, ALT / AST:28/42, Alk Phos / T
   Bili:313/1.3, Differential-Neuts:68.0 %, Band:8.0 %, Lymph:18.0 %,
   Mono:4.0 %, Eos:0.0 %, Albumin:2.9 g/dL, LDH:260 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Non-ESBL klebsiella in blood and sputum
   Cdiff neg x 1
   No new chest imaging
   Assessment and Plan
   Acute/Chronic respiratory failure
 need to wean vent gradually and
   work with Mr [**Known lastname 11922**]. I explained yesterday the need to work on building
   up resp muscle strength. He remains ventilator dependent but decreasing
   PS, now [**9-28**]. Neuromuscular weakness will make weaning slow but
   hopefully will be independent of vent soon.
   Liquid stool, possible Cdiff
 will resend stool
   Lymphoma with GVHD
 followed by hem/onc. On pred and cellcept
   Nutrition
 low vitamin A level, unclear if pancreatic deficiency
   ICU Care
   Nutrition: need to f/u re: possible TPN. Tube feeds for now
   Peptamen 1.5 (Full) - [**2162-3-28**] 03:03 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2162-3-23**] 01:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Communication: ICU consent signed
   Code status: Full code, Disposition :ICU
   Total time spent: 30 minutes, Patient is critically ill